US05994355
Synthesis of benzaldehyde 4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl hydrazone
In 30 ml of acetic acid ethyl ester was dissolved 3.26 g of 4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl hydrazine. To the solution was added equimolar benzaldehyde and three times as much mol. of anhydrous magnesium sulfate, then the reaction was allowed to proceed for one hour at room temperature. After completion of the reaction, insolubles were removed, and the solution was concentrated, which was recrystallized from acetonitrile to afford 3.3 g of the titled compound as colorless crystals, m.p. 162-163° C.

reactant | 4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl hydrazine | 3.26 g | ClC1=CC=C(C(C#N)C2=C(C=C(C=C2Cl)NN)Cl)C=C1 | C14H10Cl3N3
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | acetic acid ethyl ester | 30 ml | C(C)OC(C)=O | C4H8O2
product | benzaldehyde 4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl hydrazone | 3.3 g | ClC1=CC=C(C(C#N)C2=C(C=C(C=C2Cl)NN=CC2=CC=CC=C2)Cl)C=C1 | C21H14Cl3N3
